US09340527B2
The compound was prepared in a manner similar as to that described for 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-4-ethyl-piperidine-4-carboxylic acid using Piperidin-4-yl-acetic acid (0.0554 g, 0.387 mmol), 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde (0.100 g, 0.322 mmol) and Sodium triacetoxyborohydride (0.212 g, 0.9 mol) to give 85 mg {1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-piperidin-4-yl}-acetic acid (60%). ESI-LCMS (438 M+H). 1H NMR (DMSO-d6, 400 MHz): Shift (ppm) 7.71-8.01 (m, 3H), 7.43 (d, J=2.0 Hz, 2H), 7.10-7.30 (m, 1H), 4.38 (d, J=4.8 Hz, 3H), 3.28-3.55 (m, 2H), 2.82-3.14 (m, 2H), 2.20 (d, J=6.3 Hz, 4H), 1.85 (br. s., 5H), 1.38 (br. s., 7H), 0.89 (s, 9H)

reactant | 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-4-ethyl-piperidine-4-carboxylic acid | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)(C(=O)O)CC | C29H41NO3
reactant | Piperidin-4-yl-acetic acid | 0.387 mmol, 0.0554 g | N1CCC(CC1)CC(=O)O | C7H13NO2
reactant | 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde | 0.322 mmol, 0.100 g | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
reactant | Sodium triacetoxyborohydride | 0.9 mol, 0.212 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | {1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-piperidin-4-yl}-acetic acid | 85 mg, 60% | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)CC(=O)O | C28H39NO3
